US07368578B2
To a mixture of [5-(tert-butyldiphenylsilyloxymethyl)-2-phenyl-1,3-oxazol-4-yl]methanol (1.11 g), tributylphosphine (1.01 g), 4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenol (0.70 g) and tetrahydrofuran (80 mL) was added 1,1′-(azodicarbonyl)dipiperidine (1.26 g) at room temperature, and the mixture was stirred for 15 hrs. The precipitated crystals were removed by filtration and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give 5-(tert-butyldiphenylsilyloxymethyl)-4-[[4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenoxy]methyl]-2-phenyl-1,3-oxazole as an oil (1.44 g, yield 81%) from a fraction eluted with ethyl acetate-hexane (1:4, v/v).

reactant | [5-(tert-butyldiphenylsilyloxymethyl)-2-phenyl-1,3-oxazol-4-yl]methanol | 1.11 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(N=C(O1)C1=CC=CC=C1)CO | C27H29NO3Si
reactant | tributylphosphine | 1.01 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenol | 0.70 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)O | C17H15NO3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.26 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 5-(tert-butyldiphenylsilyloxymethyl)-4-[[4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenoxy]methyl]-2-phenyl-1,3-oxazole | 1.44 g, yield 81% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C44H42N2O5Si
